US03984407
A mixture of 16.0 g. (0.1 mole) of 5, 6, 8, 9-tetrahydro-7H-cycloheptabenzen-7-one and 42.4 g. (0.1 mole) of cyanobutyltriphenylphosphonium bromide in 500 ml of dimethoxyethane is stirred under nitrogen and treated portion-wise with 0.11 mole of 50% NaH dispersed in mineral oil. After several hours, the mixture is freed of solvent and the product extracted into ether. The crude product is dissolved in ethanol, treated with NH3 and 10 g. of Raney nickel and hydrogenated at 1500 psi of hydrogen at 100°-120°. After uptake is complete, the mixture is cooled, freed of catalyst and the product isolated from solvent. The crude 7-aminopentyl-6, 7, 8, 9-tetrahydro-5H-benzocycloheptene is taken up in 100 ml of ether and added to 500 ml of liq. NH3. The solution is treated with 20 g of lithium in small pieces over 1 hour. Then absolute ethanol is added slowly dropwise to discharge the color. After removal of NH3 , the mixture is cooled, treated with water, and extracted with ether. Removal of solvents leaves crude 7-aminopentyl-1,4,6,7,8,9-hexahydro-5H-benzocycloheptene which is converted to its N-benzoyl derivative and thence to the tetrol as described previously.

reactant | 5, 6, 8, 9-tetrahydro-7H-cycloheptabenzen-7-one | 0.1 mole | C1=CC=CC2=C1CCC(CC2)=O | C11H12O
reactant | cyanobutyltriphenylphosphonium bromide | 0.1 mole | [Br-].C(#N)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | NaH | 0.11 mole | [H-].[Na+]
reactant | 7-aminopentyl-6, 7, 8, 9-tetrahydro-5H-benzocycloheptene | NCCCCCC1CCC2=C(CC1)C=CC=C2 | C16H25N
reactant | NH3 | 500 ml | N | H3N
reactant | lithium | 20 g | [Li] | Li
solvent | dimethoxyethane | 500 ml | C(OC)COC | C4H10O2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 7-aminopentyl-1,4,6,7,8,9-hexahydro-5H-benzocycloheptene | NCCCCCC1CCC2=C(CC1)CC=CC2 | C16H27N
